US07176210B2
Preparation of Intermediate 7-Chloro-3-(4-chlorophenyl)-2-(2-chlorophenyl)-5-methylpyrazolo[1,5-a]pyrimidine (I-3A-4b)
To a slurry of 3-(4-chlorophenyl)-2-(2-chlorophenyl)-5-methylpyrazolo[1,5-a]pyrimidin-7-ol (I-3A-4a; 1.08 g, 2.92 mmol) and diisopropylethylamine (0.763 ml, 4.38 mmol) in toluene (30 ml) at room temperature was added POCl3 (1.36 ml, 14.6 mmol), dropwise. The mixture was heated at 100° C. for 16 hours, cooled to room temperature, then slowly added to a stirred mixture of ice, saturated aqueous sodium bicarbonate and ethyl acetate. The aqueous layer was separated and extracted with additional ethyl acetate. The combined organic layers were washed with brine, dried (MgSO4), and then concentrated, in vacuo, to afford the crude product. Purification on a Biotage™ Flash 40M column using 0–10% ethyl acetate in hexanes as eluant afforded I-3A-4b (1.05 g, 92%) as a yellow solid: +ESI MS (M+1) 388.1; 1H NMR (400 MHz, CD2Cl2) δ 7.55–7.35 (m, 6H), 7.26 (d, J=8.7 Hz, 2H), 6.98 (s, 1H), 2.64 (s, 3H).

reactant | 3-(4-chlorophenyl)-2-(2-chlorophenyl)-5-methylpyrazolo[1,5-a]pyrimidin-7-ol | 2.92 mmol, 1.08 g | ClC1=CC=C(C=C1)C=1C(=NN2C1N=C(C=C2O)C)C2=C(C=CC=C2)Cl | C19H13Cl2N3O
reactant | diisopropylethylamine | 4.38 mmol, 0.763 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | POCl3 | 14.6 mmol, 1.36 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-Chloro-3-(4-chlorophenyl)-2-(2-chlorophenyl)-5-methylpyrazolo[1,5-a]pyrimidine | ClC1=CC(=NC=2N1N=C(C2C2=CC=C(C=C2)Cl)C2=C(C=CC=C2)Cl)C | C19H12Cl3N3
